US04347246
C. 3-Chloro-2-mercaptobenzoic acid
Di(2-Chloro-6-carboxyphenyl)disulfide (13.4 g, 35.7 mmol), zinc (7.5 g, 115 mmol) and glacial acetic acid (150 ml) were refluxed one hour; more zinc (7.5 g, 115 mmol) was added, and reflux was continued an additional 3 hours. The mixture was cooled and filtered and the precipitate extracted with hot dilute sodium hydroxide solution. Acidification of the extract (concentrated hydrochloric acid) gave the solid product.

reactant | Di(2-Chloro-6-carboxyphenyl)disulfide | 35.7 mmol, 13.4 g | ClC1=C(C(=CC=C1)C(=O)O)SSC1=C(C=CC=C1C(=O)O)Cl | C14H8Cl2O4S2
catalyst | zinc | 115 mmol, 7.5 g | [Zn] | Zn
catalyst | zinc | 115 mmol, 7.5 g | [Zn] | Zn
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro-2-mercaptobenzoic acid | ClC=1C(=C(C(=O)O)C=CC1)S | C7H5ClO2S
